US06482840B2
To a solution of of N-(BOC)-(L)-tyrosine, tert-butyl ester (18.5 g , 55 mmol) in 150 mL of dry methylene chloride was added pyridine (17.4 g, 220 mmol) followed at 0° C. by the dropwise addition of of neat triflic anhydride (18.6 g , 66 mmol). The reaction mixture was stirred at 0° C. and monitored by TLC. After 4 hours, the mixture was diluted with 200 mL of methylene chloride and was washed successively with 1N HCl (3×100 mL), saturated sodium bicarbonate (2×100 mL) and brine (1×50 mL). The solution was dried over anhydrous MgSO4, filtered and concentrated in vacuo to give N-(BOC)-4-[(trifluoromethylsulfonyl)oxy]-(L)-phenylalanine, tert-butyl ester as an oil which was used without further purification.

reactant | N-(BOC)-(L)-tyrosine, tert-butyl ester | 55 mmol, 18.5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C18H27NO5
reactant | pyridine | 220 mmol, 17.4 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 66 mmol, 18.6 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(BOC)-4-[(trifluoromethylsulfonyl)oxy]-(L)-phenylalanine, tert-butyl ester | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C19H26F3NO7S
